US04775408
Preparation of N,N'-dimethyl-N-[5-([6-fluoropyridin-2-yl]methyl)thio-1,3,4-thiadiazol-2-yl] urea hydrochloride (Compound No. 20)
Dry hydrogen chloride gas was slowly bubbled into a stirred solution of 3.0grams (0.012 mol) of N,N'-dimethyl-N-[ 5-([6-fluorpyridin-2-yl]methyl]thio-1,3,4-thiadiazol-2-yl] urea (prepared by the method of Example 2) dissolved in a mixture of 50 ml of chloroform and 10 ml of diethyl ether over a 5 minute period at room temperature. Theprecipitated solid product was collected by vacuum filtration and dried to yield 3.3 grams of the title compound, m.p. 177°-179° C.

reactant | hydrogen chloride | Cl | ClH
reactant | N,N'-dimethyl-N-[ 5-([6-fluorpyridin-2-yl]methyl]thio-1,3,4-thiadiazol-2-yl] urea | 0.012 mol, 3.0grams | CN(C(=O)NC)C=1SC(=NN1)SCC1=NC(=CC=C1)F | C11H12FN5OS2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | N,N'-dimethyl-N-[5-([6-fluoropyridin-2-yl]methyl)thio-1,3,4-thiadiazol-2-yl] urea hydrochloride | 3.3 grams | Cl.CN(C(=O)NC)C=1SC(=NN1)SCC1=NC(=CC=C1)F | InChI=1S/C11H12FN5OS2.ClH/c1-13-9(18)17(2)10-15-16-11(20-10)19-6-7-4-3-5-8(12)14-7;/h3-5H,6H2,1-2H3,(H,13,18);1H
